US09227978B2
N-(1-(Azetidin-3-yl)azetidin-3-yl)acrylamide hydrochloride
A mixture of tert-butyl 3-(3-(acrylamido)azetidin-1-yl)azetidine-1-carboxylate (300 mg, 1.07 mmol) in HCl-MeOH (30 mL, 86 mmol) was stirred at room temperature for 1 h. The mixture was concentrated in vacuo to afford the crude product (250 mg) which was used directly in the next step without further purification.

reactant | tert-butyl 3-(3-(acrylamido)azetidin-1-yl)azetidine-1-carboxylate | 1.07 mmol, 300 mg | C(C=C)(=O)NC1CN(C1)C1CN(C1)C(=O)OC(C)(C)C | C14H23N3O3
reactant | HCl MeOH | 86 mmol, 30 mL | Cl.CO
product | N-(1-(Azetidin-3-yl)azetidin-3-yl)acrylamide hydrochloride | 250 mg | Cl.N1CC(C1)N1CC(C1)NC(C=C)=O | InChI=1S/C9H15N3O.ClH/c1-2-9(13)11-7-5-12(6-7)8-3-10-4-8;/h2,7-8,10H,1,3-6H2,(H,11,13);1H
